US06800629B2
In 2.0 mL of 1,1,1,3,3,3-hexamethyldisilazane were suspended 0.20 g of 3-oxo-3,4-dihydro-2-pyrazinecarboximidamide and 10 mg of ammonium sulfate. Under a stream of nitrogen gas, the suspension was heated under reflux for 10 minutes. After adding 9.0 mg of ammonium sulfate, the mixture was heated under reflux for an additional 2 hours. The reaction mixture was allowed to cool, and the solvent was removed under reduced pressure. The residue thus obtained was dissolved in 4.0 mL of acetonitrile, 0.46 g of β-D-ribofuranose-1,2,3,5-tetraacetate and 0.34 mL of stannic (IV) chloride were successively added, and the mixture thus obtained was stirred at room temperature for 3 hours. Then, 10 μL of trifluoroacetic acid and 1.0 mL of water were added to the reaction mixture, and the solvent was removed under reduced pressure. Further, the same reaction as above was repeated by using 0.05 g of 3-oxo-3,4-dihydro-2-pyrazinecarboximidamide. The reaction mixture thus obtained was united with the reaction mixture obtained above, and the product was purified by reversed phase silica gel column chromatography [eluent: acetonitrile:water=1:4] to obtain 0.34 g of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-[3-[amino(imino)methyl]-2-oxo-1(2H)-pyrazinyl]tetrahydro-3-furanyl acetate as a light yellow-colored solid product.

reactant | 3-oxo-3,4-dihydro-2-pyrazinecarboximidamide | 0.20 g | O=C1C(=NC=CN1)C(N)=N | C5H6N4O
reactant | β-D-ribofuranose-1,2,3,5-tetraacetate | 0.46 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | trifluoroacetic acid | 10 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 1.0 mL | O | H2O
reactant | 3-oxo-3,4-dihydro-2-pyrazinecarboximidamide | 0.05 g | O=C1C(=NC=CN1)C(N)=N | C5H6N4O
solvent | 1,1,1,3,3,3-hexamethyldisilazane | 2.0 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | acetonitrile | 4.0 mL | C(C)#N | C2H3N
catalyst | ammonium sulfate | 10 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
catalyst | ammonium sulfate | 9.0 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-[3-[amino(imino)methyl]-2-oxo-1(2H)-pyrazinyl]tetrahydro-3-furanyl acetate | 0.34 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C(C(=NC=C1)C(=N)N)=O)COC(C)=O | C16H20N4O8
